US06503905B1
To a solution of trifluoro-methanesulfonic acid 4-[1-benzyl-3-(3-methoxy-phenyl)-piperidin-3-yl]-phenyl ester (12.9 g, 25.4 mmol) in a Parr pressure bottle in MeOH (39 mL) were added DMSO (18 mL) and triethylamine (21 mL, 151 mmol). To the reaction mixture were added palladium acetate (3.99 g, 17.8 mmol) and 1,3-bis (diphenylphosphino) propane (5.25 g, 12.3 mmol). The mixture was shaken under 40 psi of CO at 70° C. for 4 hours. The reaction mixture was cooled to room temperature and was diluted with diethyl ether (600 mL). The ether layer was washed with water (5×60 mL), dried (MgSO4) and concentrated. The crude residue was purified by flash chromatography with hexanes/EtOAc (3:1) to afford 9.82 g of 4-[1-benzyl-3-(3-methoxy-phenyl)-piperidin-3-yl]-benzoic acid methyl ester. 1HNMR (400 MHz, CDCl3) δ 7.87 (d, 2H), 7.41-7.20 (comp, 7H), 7.12 (t, 1H), 6.77 (s, 1H), 6.73(d, 1H) 6.66 (d, 1H), 3.86 (s, 3H), 3.71 (s, 3H), 3.51 (s, 2H), 3.05 (br, 1H), 2.68 (br, 1H), 2.55 (br, 1H), 2.41-2.24 (comp, 2H), 2.22-2.18 (m, 1H), 1.61-1.42 (comp, 2H); MS (M+1) 416.3.

reactant | trifluoro-methanesulfonic acid 4-[1-benzyl-3-(3-methoxy-phenyl)-piperidin-3-yl]-phenyl ester | 25.4 mmol, 12.9 g | C(C1=CC=CC=C1)N1CC(CCC1)(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C26H26F3NO4S
reactant | DMSO | 18 mL | CS(=O)C | C2H6OS
reactant | triethylamine | 151 mmol, 21 mL | C(C)N(CC)CC | C6H15N
reactant | 1,3-bis (diphenylphosphino) propane | 12.3 mmol, 5.25 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | diethyl ether | 600 mL | C(C)OCC | C4H10O
solvent | MeOH | 39 mL | CO | CH4O
catalyst | palladium acetate | 17.8 mmol, 3.99 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[1-benzyl-3-(3-methoxy-phenyl)-piperidin-3-yl]-benzoic acid methyl ester | 9.82 g | COC(C1=CC=C(C=C1)C1(CN(CCC1)CC1=CC=CC=C1)C1=CC(=CC=C1)OC)=O | C27H29NO3
